Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pedestrian struck -> SOB and hypoxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
___
Time: 300 am

_
________________________________________________________________

PCP: ___ D. {___. ___ Affil Phys -- Mt. 
___ (___) 
? Pt tell me Dr. ___? with CHA. 
   

. 
The patient is currently a poor historian secondary to 
somnolence. 
History obtained from ED records, OSH records and partly from 
patient. 
.
CC: SOB and s/p pedestrian struck 

_
________________________________________________________________
HPI: 
___ w/ hx morbid obsesity, COPD not on home O2, chronic pain 
on suboxone, htn, referred from ___ for 
persistent hypoxia, pain in setting of being struck by a vehicle 
in a parking lot at low speed at 1630, and several days of 
rhinorrhea, cough w/ mucus, general weakness.

Pt has been using more nebulizers recently in the context of his 
cold sxs and increasing dyspnea; this was w/o chest pain.
In the ambulance en route to ___ he was given 100 mcg IM 
fentanyl. He was given dilaudid 1 mg IV at ___. 

These infectious symptoms persisted until today this afternoon 
at which time he was struck by a car in a parking lot. He fell 
along the left side of his torso, denying head injury or LOC per 
ED but to author, pt reported that he had LOC, but had 
significant pain along this side.

External trauma exam was bland, and VS notable only for hypoxia 
to low ___ RA. CT head / cspine, and torso w/ contrast without 
traumatic injury. Pt transferred for further evaluation and 
workup given his persistent pain despite fentanyl and dilaudid, 
as well as splinting respirations.

in BI ED, continued discomfort and hypoxia to ___ RA. Tertiary 
exam notable for bilateral knee pain without deformity, L elbow 
pain, resolved, and marked L chest wall ttp. auscultation w/ 
decreased breath sounds bilaterally and wheezing, rhonchi. Mild 
lumbar central ttp w/o
In ER: (Triage Vitals:5| 96.0 |96 |149/73 |22 |RA  ) 
Meds Given: 
___ 22:36 IV HYDROmorphone (Dilaudid) .5 mg 
___ 22:36 PO Acetaminophen 1000 mg 
___ 22:36 PO Ibuprofen 800 mg 
___ 23:47 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 23:47 IH Ipratropium Bromide Neb 1 NEB 
___ 23:47 PO PredniSONE 60 mg 
___ 00:46 PO Azithromycin 500 mg 
___ 01:15 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 01:15 IH Ipratropium Bromide Neb 1 NEB 
.
Radiology Studies: Trauma CXR and Knee X ray
consults called: Trauma
.
PAIN SCALE: "severe pain in L side, worse with movement.
His breathing is good and he denies sob. He does not repot n/v/d 
but the ROS is very limited secondary to somnolence. He states 
that he does not use oxygen at home. He did not have sob prior 
to the accident. He does not have a formal diagnosis of sleep 
apnea but "I have to get the test done".
All other limited ROS negative. 

 
Past Medical History:
COPD not on oxygen
Morbid obesity
 
Social History:
___
Family History:
His father died of lung cancer at age ___. His mother died of 
natural causes at age ___
 
Physical Exam:
ADMISSION EXAM:
Vitals:  T 97.9 P 92  BP 131/78  RR 20  SaO2 94% on 3L
GEN: Obese male who is moaning in bed. He is slightly 
diaphoretic. He is sleepy and awakens with persistent 
stimuation. He is able to answer questions but often doses off 
during the encounter. 
HEENT: ncat anicteric MMM  
CV: s1s2 rr no m/r/g  
RESP: soft occasional scattered wheezes. He is not tachypneic
ABD: +bs, soft, + L sided tenderness 
EXTR:2+ DPP, b/l chronic venostasis. R ___ very tender to 
palpation
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  

DISCHARGE EXAM:
Vitals: 97.9, 108/66, 73, 20, 94% on RA
Gen: NAD, sitting upright in chair, alert & oriented x3
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no murmur 
Resp: Cleat to auscultation bilaterally, no increased work of 
breathing
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Appropriate mood & affect
 
Pertinent Results:
___ 09:40PM   GLUCOSE-106* UREA N-11 CREAT-0.7 SODIUM-137 
POTASSIUM-5.0 CHLORIDE-100 TOTAL CO2-28 ANION GAP-14
___ 09:40PM   estGFR-Using this
___ 09:40PM   WBC-11.0* RBC-4.85 HGB-14.6 HCT-44.2 MCV-91 
MCH-30.1 MCHC-33.0 RDW-13.2 RDWSD-43.8
___ 09:40PM   NEUTS-68.0 ___ MONOS-7.6 EOS-3.9 
BASOS-0.5 IM ___ AbsNeut-7.44* AbsLymp-2.14 AbsMono-0.83* 
AbsEos-0.43 AbsBaso-0.05
___ 09:40PM   PLT COUNT-181

___ 06:40AM BLOOD WBC-14.4* RBC-4.68 Hgb-14.2 Hct-43.1 
MCV-92 MCH-30.3 MCHC-32.9 RDW-13.3 RDWSD-45.2 Plt ___
___ 06:40AM BLOOD Glucose-166* UreaN-18 Creat-0.7 Na-138 
K-4.1 Cl-100 HCO3-29 AnGap-13
___ 05:13AM BLOOD Glucose-167* Lactate-1.9 Na-139 K-4.6 
Cl-94* calHCO3-33*

==========================
Studies on Life Image:
/___
17:50   Head-Brain Without Con (LifeImage) 
___
16:59   Ct Abdomen And Pelvis With Con (LifeImage) 
___
16:59   Head/Brain Without Contrast (LifeImage) 
___
18:07   Chest-Thorax With Cont (LifeImage) 
___
17:53   C-Spine Without Contra (LifeImage) 
___
16:59   Ct Abdomen And Pelvis With Con (LifeImage) 
___
16:59   Head/Brain Without Contrast (LifeImage) 
___
16:45   Portable Chest Xray (LifeImage) 
==================
Trauma CXR and Knee X ray negative for fractures
====================  

___
16:59   C-Spine Without Contrast (LifeImage) 
  

___
16:59   Chest-Thorax With Cont (LifeImage) 

___ Imaging FOOT AP,LAT & OBL RIGHT:
Degenerative changes are present in the DIP and PIP joints and 
in the 
metatarsophalangeal joint of the great toe.  There are no acute 
fractures. 

___ Imaging KNEE (AP, LAT & OBLIQUE 
No fracture or dislocation.

___ Imaging TRAUMA #3:
1.  No acute cardiopulmonary process. 
2.  No displaced rib fractures identified. 
 
Brief Hospital Course:
The patient is a ___ year old male with h/o morbid obesity, COPD 
(not on oxygen) who presents s/p pedestrian struck ___ from OSH 
with new persistent hypoxia despite negative imaging.

# S/P MVC/PEDESTRIAN STRUCK:
Patient struck by vehicle in parking lot. Initially brought to 
___ and then transferred to ___. Seen by trauma service with 
negative primary survey. Imaging negative. Patient received 
fentanyl and dilaudid which led to oversedation, though this 
resolved without complications. He continued to have multiple 
areas of pain, but it was improving significantly at the time of 
discharge. He will follow up with his primary care physician as 
an outpatient to ensure he has resolution of his symptoms.

# HYPOXIA,
# DYSPNEA,
# COPD, chronic:
Patient initially had hypoxia with ABG notable for hypercarbia. 
He did not have any wheeze on exam. Initially there was some 
concern for COPD exacerbation, so he was started on prednisone 
and azithromycin. However, his hypoxia was more likely related 
to a combination of splinting due to pain, oversedation from 
pain medications, as well as possible obstructive sleep apnea. 
His oxygen requirement quickly resolved and he felt that his 
respiratory status was at baseline. 

# OTHER MEDICAL PROBLEMS:
- RSD of leg
- Continue home dose of suboxone

TRANSTIONAL ISSUES:
[ ] Please monitor patient for continued improvement in pain. He 
was not requiring additional pain medications at the time of 
discharge.
[ ] Consider outpatient sleep study to evaluate for sleep apnea.

 
Medications on Admission:
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID 
 
Discharge Medications:
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Struck by car
Somulance due to medication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted after 
being struck by a car. You were evaluated for trauma and it was 
negative. You became somulant and required some medication to 
help wake you up. You also initially had low oxygen saturation. 
This is likely related to the pain medications that you were 
given after the accident. Please take your medications as 
directed and follow up with your PCP. As we discussed it is 
important to stop smoking, and consider a sleep study to 
evaluate for sleep apnea. 

Sincerely,
Your ___ Team
 
Followup Instructions:
___